US04070481
Following the method of Hunsdiecker [Berichte, 75, 454 (1942)], 26 parts of ethyl 2-acetyl-4(2-methylphenyl)-3-oxobutanoate was stirred for 10 hours at room temperature with 100 parts ethanol and 6.8 parts of sodium ethoxide. The mixture was diluted with water and extracted with ether. The solvent was then evaporated to give ethyl 4-(2-methylphenyl)-3-oxobutanoate.

reactant | ethyl 2-acetyl-4(2-methylphenyl)-3-oxobutanoate | C(C)(=O)C(C(=O)OCC)C(CC1=C(C=CC=C1)C)=O | C15H18O4
reactant | ethanol | C(C)O | C2H6O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | water | O | H2O
product | ethyl 4-(2-methylphenyl)-3-oxobutanoate | CC1=C(C=CC=C1)CC(CC(=O)OCC)=O | C13H16O3
